US07423185B2
[2-Isopropyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy]acetic acid
A mixture of benzyl [2-isopropyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy]acetate (0.24 g) and 10% palladium-carbon (0.05 g) in ethanol (10 mL) was stirred at room temperature for 2 hrs under an atmosphere of hydrogen. The catalyst was removed by filtration, and the solvent was evaporated under reduced pressure to afford the title compound (0.156 g).

reactant | benzyl [2-isopropyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy]acetate | 0.24 g | C(C)(C)C1=C(OCC(=O)OCC2=CC=CC=C2)C=CC(=C1)B1OC(C(O1)(C)C)(C)C | C24H31BO5
solvent | ethanol | 10 mL | C(C)O | C2H6O
catalyst | palladium-carbon | 0.05 g | [C].[Pd]
product | [2-Isopropyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy]acetic acid | 0.156 g | C(C)(C)C1=C(OCC(=O)O)C=CC(=C1)B1OC(C(O1)(C)C)(C)C | C17H25BO5
